US06884821B1
0.37 g of ethyl 3-methyl-1-phenyl-1H-5-pyrazolecarboxylate was dissolved in 10 ml ethanol, and 1 ml of 5N sodium hydroxide was added, followed by heating under reflux for 1 hour. The reaction solution was ice-cooled and neutralized with 2N hydrochloric acid, followed by extracting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 0.26 g of 3-methyl-1-phenyl-1H-5-pyrazolecarboxylic acid.

reactant | ethyl 3-methyl-1-phenyl-1H-5-pyrazolecarboxylate | 0.37 g | CC1=NN(C(=C1)C(=O)OCC)C1=CC=CC=C1 | C13H14N2O2
reactant | sodium hydroxide | 5N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-methyl-1-phenyl-1H-5-pyrazolecarboxylic acid | 0.26 g | CC1=NN(C(=C1)C(=O)O)C1=CC=CC=C1 | C11H10N2O2
